US04125732
2-(p-Fluorophenoxy)ethanol O-methanesulfonate
As for Example 56, 12.5 g of 2-(p-fluorophenoxy) ethanol is reacted with 7 ml of methanesulfonyl chloride in 100 ml of dichloromethane in the presence of 23 ml of triethylamine. The product (18 g) is obtained as a colorless liquid.

reactant | 2-(p-fluorophenoxy) ethanol | 12.5 g | FC1=CC=C(OCCO)C=C1 | C8H9FO2
reactant | methanesulfonyl chloride | 7 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 23 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-(p-Fluorophenoxy)ethanol O-methanesulfonate | 18 g | CS(=O)(=O)OCCOC1=CC=C(C=C1)F | C9H11FO4S
